US07427613B2
[2-(2-Chlorophenyl)ethyl]cyclopropylamine
Synthesized according to typical procedures C and D from (2-chlorophenyl)-acetic acid and cyclopropylamine.

reactant | (2-chlorophenyl)-acetic acid | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | [2-(2-Chlorophenyl)ethyl]cyclopropylamine | ClC1=C(C=CC=C1)CCNC1CC1 | C11H14ClN
